US09278981B2
Stage 279.2 5-Bromo-6-chloro-N-(6-((trifluoromethyl)thio)pyridin-3-yl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 169.2 using 5-bromo-6-chloronicotinic acid and 6-(trifluoromethylthio)pyridin-3-amine to afford an off-white powder. HPLC (Condition 4) tR=6.43 min, UPLC-MS (Condition 3) tR=1.15 min, m/z=411.9 [M−H]−.

reactant | 5-bromo-6-chloronicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 6-(trifluoromethylthio)pyridin-3-amine | FC(SC1=CC=C(C=N1)N)(F)F | C6H5F3N2S
product | 5-Bromo-6-chloro-N-(6-((trifluoromethyl)thio)pyridin-3-yl)nicotinamide | BrC=1C(=NC=C(C(=O)NC=2C=NC(=CC2)SC(F)(F)F)C1)Cl | C12H6BrClF3N3OS
